US07323456B2
6-(perhydroazepin-1-yl)nicotinic acid
A suspension of 6-chloronicotinic acid (5.0 g) and perhydroazepine (7.16 mL) in xylene (20 mL) was stirred at 140° C. for 30 hours under an atmosphere of argon. The reaction mixture was cooled to room temperature, diluted with hexane and filtrated. The insoluble material was dissolved in ethyl acetate. The organic layer was washed with water and brine sequentially, dried over anhydrous magnesium sulfate and concentrated to give the title compound (3.19 g) having the following physical data.

reactant | 6-chloronicotinic acid | 5.0 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | perhydroazepine | 7.16 mL | N1CCCCCC1 | C6H13N
solvent | xylene | 20 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | hexane | CCCCCC | C6H14
product | 6-(perhydroazepin-1-yl)nicotinic acid | 3.19 g | N1(CCCCCC1)C1=NC=C(C(=O)O)C=C1 | C12H16N2O2
